US06103708
4-{4-[(2-Butyl-benzofuran-3-ylmethyl)-amino]-phenoxysulfonyl}-2-hydroxy-benzoic Acid
The title compound was prepared according to the procedure in Example 4 using 4-[(2-butyl-benzofuran-3-ylmethyl)-amino]-phenol (0.500 g, 1.69 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.401 g, 1.69 mmol). Purification on 2% H3PO4 /MeOH treated silica gel, eluting with 25% EtOAc/hexane gave 0.571 g (85%) of the title compound as a dark yellow solid, mp 75-77° C. 1H NMR (DMSO-d6) δ 0.86 (t, 3 H), 1.31 (sextet, 2 H), 1.60 (quintet, 2 H), 2.80 (t, 2 H), 4.23 (s, 2 H), 6.54 (d, 2 H), 6.72 (d, 2 H), 7.14-7.22 (m, 2 H), 7.26-7.30 (m, 2 H), 7.45 (dd, 1 H), 7.58 (dd, 1 H), 7.95 (d, 1 H). IR (KBr) 3400, 2950, 1600, 1510 and 1380 cm-1. mass spectrum (-ESI) m/z 494 (M-H).

reactant | 4-[(2-butyl-benzofuran-3-ylmethyl)-amino]-phenol | 1.69 mmol, 0.500 g | C(CCC)C=1OC2=C(C1CNC1=CC=C(C=C1)O)C=CC=C2 | C19H21NO2
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 1.69 mmol, 0.401 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-{4-[(2-Butyl-benzofuran-3-ylmethyl)-amino]-phenoxysulfonyl}-2-hydroxy-benzoic Acid | 0.571 g, 85% | C(CCC)C=1OC2=C(C1CNC1=CC=C(OS(=O)(=O)C3=CC(=C(C(=O)O)C=C3)O)C=C1)C=CC=C2 | C26H25NO7S
